US08048909B2
Ethyl 5-bromo-4-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carboxylate
Using sodium hydride (60% in oil, 620 mg), ethyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate (3.0 g) and tosyl chloride (2.95 g), a procedure as in Reference Example 41 was performed to give the title compound as pale-yellow crystals (yield 4.27 g, 86%).

reactant | sodium hydride | 620 mg | [H-].[Na+]
reactant | ethyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate | 3.0 g | BrC1=C(C(=CN1)C(=O)OCC)C | C8H10BrNO2
reactant | tosyl chloride | 2.95 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
product | Ethyl 5-bromo-4-methyl-1-[(4-methylphenyl)sulfonyl]-1H-pyrrole-3-carboxylate | yield 4.27 g, 86% | BrC1=C(C(=CN1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC)C | C15H16BrNO4S
